US07429605B2
1.44 g (1.25 mmol)Pd(PPh3)4 was added under argon at room temperature to a solution of 6-bromo-pyridine-3-carbaldehyde in 60 ml 1,2 dimethoxyethane and stirred for 15 min. 63 ml (125 mmol) of 2 M sodium carbonate solution and 2.5 g (13.16 mmol) of 3-(trifluoromethyl-)-phenylboronic acid were added and the mixture heated to boiling temperature for 18 hours (h). The reaction mixture was cooled to room temperature, filtered, and the filtrate evaporated. The residue was taken up with ethyl acetate, washed twice with water, dried over sodium sulphate and evaporated. Chromatography on silica (eluent: ethyl acetate/n-heptane 1:3) gave 1.18 g (36%) of 6-(3-Trifluoromethyl-phenyl)-pyridine-3-carbaldehyde

reactant | 6-bromo-pyridine-3-carbaldehyde | BrC1=CC=C(C=N1)C=O | C6H4BrNO
reactant | sodium carbonate | 125 mmol, 2 M, 63 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-(trifluoromethyl-)-phenylboronic acid | 13.16 mmol, 2.5 g | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
solvent | 1,2 dimethoxyethane | 60 ml | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 1.25 mmol, 1.44 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-(3-Trifluoromethyl-phenyl)-pyridine-3-carbaldehyde | 1.18 g, 36% | FC(C=1C=C(C=CC1)C1=CC=C(C=N1)C=O)(F)F | C13H8F3NO
